* ============================================================================
* TERNARY SUM GATE (Modulo-3 Addition) - Transistor Implementation
* ============================================================================
* GT-LOGIC Ternary CMOS Cell Library
* Cell: TSUM - Ternary Modulo-3 Sum
*
* Function: Y = (A + B) mod 3
*
* Truth Table:
*     A\B | 0   1   2
*     ----|----------
*      0  | 0   1   2
*      1  | 1   2   0
*      2  | 2   0   1
*
* Balanced Ternary: (A + B) mod 3
*     A\B | -1   0  +1
*     ----|----------
*     -1  |  +1  -1   0
*      0  |  -1   0  +1
*     +1  |   0  +1  -1
*
* Implementation: Decoder + MUX tree approach
*   1. Decode A into three signals (A_is_0, A_is_1, A_is_2)
*   2. Use three TMUX3 to select based on B for each A value
*   3. Final TMUX3 selects based on A
*
* Transistor Count: ~80 (using hierarchical TMUX3)
* ============================================================================

.subckt TSUM A B Y VDD VSS

* ============================================================================
* INPUT DECODERS - Generate one-hot signals for A
* ============================================================================
* A_is_0: HIGH when A = 0 (using NTI)
XNTI_A A A_is_0 VDD VSS NTI

* A_is_2: HIGH when A = 2 (using PTI then STI)
XPTI_A A A_not_2 VDD VSS PTI
XSTI_A2 A_not_2 A_is_2 VDD VSS STI

* A_is_1: HIGH when A = 1 (neither 0 nor 2)
* Computed using DeMorgan: NOT(A_is_0 OR A_is_2) = NOR(A_is_0, A_is_2)
* But simpler: use threshold detection
XNTI_Amid A Amid_low VDD VSS NTI
XPTI_Amid A Amid_high VDD VSS PTI
* A_is_1 = Amid_high AND NOT(A_is_0) = Amid_high AND NOT(Amid_low)
* Simplified: Use TMAX for OR, then STI for NOR
XTMAX_A01 A_is_0 A_is_2 A_not_1 VDD VSS TMAX
XSTI_A1 A_not_1 A_is_1 VDD VSS STI

* ============================================================================
* SUM LOOKUP TABLE IMPLEMENTATION
* ============================================================================
* For each value of A, define what output should be for each B:
*
* When A=0: Y = B (identity)
*   B=0 -> Y=0, B=1 -> Y=1, B=2 -> Y=2
*
* When A=1: Y = (B+1) mod 3
*   B=0 -> Y=1, B=1 -> Y=2, B=2 -> Y=0
*
* When A=2: Y = (B+2) mod 3
*   B=0 -> Y=2, B=1 -> Y=0, B=2 -> Y=1

* Generate constant voltage references for MUX inputs
* 0 = VSS, 1 = 0.9V, 2 = VDD
R_V0 V0 VSS 1
R_V1a VDD V1 10k
R_V1b V1 VSS 10k
R_V2 V2 VDD 1

* MUX for A=0 case: output = B (just pass through)
* Y_A0 = B
XSTI_passA B n_passA VDD VSS STI
XSTI_passB n_passA Y_A0 VDD VSS STI

* MUX for A=1 case: output = (B+1) mod 3
* D0=1(0.9V), D1=2(1.8V), D2=0(0V), select by B
XTMUX_A1 V1 V2 V0 B Y_A1 VDD VSS TMUX3

* MUX for A=2 case: output = (B+2) mod 3
* D0=2(1.8V), D1=0(0V), D2=1(0.9V), select by B
XTMUX_A2 V2 V0 V1 B Y_A2 VDD VSS TMUX3

* ============================================================================
* FINAL OUTPUT MUX - Select based on A
* ============================================================================
XTMUX_OUT Y_A0 Y_A1 Y_A2 A Y VDD VSS TMUX3

.ends TSUM

* ============================================================================
* DESIGN NOTES:
* ============================================================================
* 1. TSUM implements modulo-3 addition, fundamental for balanced ternary
*
* 2. The lookup table approach is systematic but not minimal
*    - Each A value maps to a different permutation of outputs
*    - A=0: identity (0,1,2)
*    - A=1: rotate left (1,2,0)
*    - A=2: rotate left twice (2,0,1)
*
* 3. Alternative: Use analog summing + modulo circuit
*    - Sum voltages directly
*    - Use comparators to detect overflow/underflow
*    - More compact but less robust to noise
*
* 4. This cell is used in balanced ternary arithmetic:
*    - Half adder SUM output
*    - Part of full adder logic
*
* 5. Transistor count can be reduced by:
*    - Sharing decoder logic between MUXes
*    - Using pass-transistor logic instead of full TMUX3
*    - Direct CMOS implementation of the 9-entry truth table
* ============================================================================
